US05002942
2-Amino-5-benzylbenzenethiol
A solution of 103 g of potassium hydroxide in 125 ml of water was mixed with 62.5 ml of ethylene glycol and 25 g of 2-amino-6-benzylbenzothiazole was added to the mixture under an atmosphere of nitrogen. The mixture was stirred whilst heating it on an oil bath kept at 135° C. for 7 hours. After it had been allowed to cool, the mixture was diluted with 250 ml of toluene and 105 ml of acetic acid were added dropwise to it. The toluene layer was separated off, and the aqueous solution remaining was again extracted with toluene. The combined toluene extracts were washed with an aqueous solution of sodium bicarbonate, with water and with an aqueous solution of sodium chloride, after which the resulting solution was dried over anhydrous magnesium sulfate. Distillation of the solvent afforded 21.0 g of the title compound as a syrup. This product crystallized on standing and was used in the following reaction without further purification.

reactant | potassium hydroxide | 103 g | [OH-].[K+]
reactant | ethylene glycol | 62.5 ml | C(CO)O | C2H6O2
reactant | 2-amino-6-benzylbenzothiazole | 25 g | NC=1SC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C14H12N2S
solvent | water | 125 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 105 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-5-benzylbenzenethiol | 21.0 g | NC1=C(C=C(C=C1)CC1=CC=CC=C1)S | C13H13NS
